US04460601
(a) 3-(2-thenoylmercapto)-propionic acid
A mixture of 26.5 g (0.25 mol) of 3-mercaptopropionic acid, 150 mls of ethyl ether and 250 mls of 1-normal NaOH has been treated dropwise, the temperature being maintained between 0° C. and 5° C., with vigorous stirring, with 40.3 g of 2-thenoyl chloride (0.275 mol) in 80 mls of ethyl ether, while concurrently adding, so as to keep the pH of the reaction environment constantly alkaline, 31.5 g (0.36 mol) of NaHCO3 in 800 mls of water. On completion of dripping, stirring has been continued for 16 additional hours at room temperature. Upon separation of the organic phase, the waters have been extracted with ethyl ether again, and then made acidic with 4-normal hydrochloric acid. The as-formed precipitate has been recrystallized from 70% ethanol.

reactant | 3-mercaptopropionic acid | 0.25 mol, 26.5 g | SCCC(=O)O | C3H6O2S
reactant | NaOH | 250 mls | [OH-].[Na+]
reactant | 2-thenoyl chloride | 0.275 mol, 40.3 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | NaHCO3 | 0.36 mol, 31.5 g | C(=O)(O)[O-].[Na+]
solvent | ethyl ether | 80 mls | C(C)OCC | C4H10O
solvent | water | 800 mls | O | H2O
solvent | ethyl ether | 150 mls | C(C)OCC | C4H10O
product | 3-(2-thenoylmercapto)-propionic acid | C1(=CC=CS1)C(=O)SCCC(=O)O | C8H8O3S2
